Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been really depressed" 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
"Mr. ___ states that he has been spending his days in bed and 
crying frequently. He feels as though he is functioning 
significantly below his baseline in particular w/ regards to his 
school work. He reports feeling as though his mind is "blocked" 
and appears to have difficulty initiating tasks. He reports he 
had sent an email to the ___ of the law school informing her of 
his "distress" and desire to get help. He met w/ ___ this AM to 
discuss potential accommodations, which went well. He forwarded 
the email he had sent to the ___ to his outpatient psychiatrist 
who then recommended patient present to ED for evaluation for 
inpatient level of care.

He cites law school as being a stressor. He describes a "cycle" 
in which he becomes stressed by his school work and then has a 
"breakdown" e.g. notes he had to take a leave of absence during 
law school. However, this current presentation is more severe as 
he describes a feeling of wanting to "give up." He also cites 
lack of social supports nearby as a stressor as he reports 
having "no friends" in law school, which is unusual for the 
patient as he is someone who is typically extroverted and who in 
the past had many friends.

He describes having intrusive thoughts that tell him that he is 
"not going to make it" or that he is "not cut out for law 
school." He identifies w/ having imposter syndrome. However, he 
also reports experiencing moments of grandeur e.g. thinking he 
will be the "next dictator of ___ or that he is a ___ god." 
He is adamant that the intrusive thoughts are not voices as he 
denies experiencing AVH. When asked about SI, he denied active 
SI but appears to be experiencing passive SI as he states that 
he feels he "doesn't care one way or the other" w/ regards to 
how he feels about death. Of note, patient states he would not 
feel safe going home in his current state. He currently denies 
HI but did describes instances in which he fantasized about 
violence towards others when he feels "angry." He endorses 
feeling "paranoid" e.g. that his apartment is being "cased" and 
notes this is relatively new. He appears to connect this w/ his 
use of modafinil and notes his paranoia is worse when he takes 
it more frequently than prescribed.

Recently, he notes increased sleep but notes it's low quality 
and not particularly restful. He notes his appetite is poor and 
he estimates he has lost ~10lbs in the past few weeks. He has 
had difficulty w/ concentration and motivation. He denies 
experiencing flashbacks or nightmares related to past trauma as 
well as a history of an eating d/o. He reports experiencing 
episodes of hypomania in which he has decreased need for sleep 
and engages in risky behavior e.g. hypersexual, reckless 
driving, irritable.

COLLATERAL:

___ Case Management at ___ (will need to 
contact regarding re-entry appointment, on-call provider 
___ ___ direct line ___ - Limited 
interactions w/ patient; emergency appointments; last before 
today was ___ - Hx BPAD; prior leave of absence - Told law 
school ___ he was severely depressed, crying all the time, 
difficulty getting OOB - Disclosed symptoms Dr. ___ 
(___) separately; recommended hospitalization - Recent 
SI but denied this AM; was wanting to go to hospital - ___ 
interaction ___/ BU - Started back on medication that he had 
discontinued during the ___; lamictal 25mg w/ plan to 
increase to 50mg that week; risperidone (not taking) and 
clonazepam (reports abuse) as well as Cymbalta PRN; occasional 
cocaine use, marijuana use often; opiate abuse "regularly"; ___. 
___ IOP referral / CCAP (unclear whether patient 
attended); connected w/ outpatient therapist ___ 
(___) 

#Mother Patient's mother was present during the interview w/ 
patient's permission. She reports she flew into ___ from 
___ as her son was c/o depression. Has visited son in the 
passed while he was depressed and notes that her appearance 
typically helped improve son's mood. However, notes this time 
that son has remained depressed e.g. staying in bed, not eating, 
and isolating himself which is unusual. Lastly, she expressed 
concern about patient being on antidepressants as she feels as 
though they trigger patient's manic symptoms. 

In the ED, pt was medically cleared and did not received any 
medications, was seen by psychiatry who started a ___. 

On interview today, pt denies any SI since coming to the ED: 
"I've been pretty chill here." He notes recent HI, most recently 
one week ago that is not directed at anyone in particular: "my 
brain attacks me with really violent thoughts and tells me it 
would be really satisfying to follow through on those." Since 
arriving at the hospital the patient states he continues to feel 
depressed but has noted some relief in escaping his law school 
life. He states "I've been sleeping since I got here" which he 
is happy about, he states he did not realize how tired he had 
been until he came to the emergency department. The patient 
states he does not want to stay in the hospital long because he 
is worried about his mother, who flew in from ___, being on 
her own in the city and not knowing how to navigate around. 

REVIEW OF SYSTEMS: 

-Psychiatric:

---Depression: Endorses symptoms of depression including 
depressed mood, fatigue, anhedonia, thoughts of death/SI, sleep 
disturbance including insomnia, loss of appetite/weight changes, 
poor concentration

---Anxiety: Endorses symptoms of anxiety including worry, 
rumination, intrusive thoughts

---Mania: Denies symptoms of mania such as distractibility, 
erratic/risky behavior, grandiosity, flight of ideas, increased 
activity, decreased need for sleep, or talkativeness/pressured 
speech. 

---Psychosis: Denies symptoms of psychosis such as auditory or 
visual hallucinations, or delusions of reference, paranoia, 
thought insertion/broadcasting/withdrawal. 

-General: Denies fatigue, fever, chills, nightsweats, headache, 
focal numbness, focal weakness, changes in vision, changes in 
hearing, heat intolerance, cold intolerance, polyuria, 
polydipsia, cough, SOB, CP, palpitations, abdominal pain, 
nausea, vomiting, diarrhea, constipation, melena, dysuria, 
increased urinary frequency, rash, skin changes, joint pain, 
muscle pain, edema, bruising, bleeding.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: bipolar d/o, depression
-Hospitalizations: denies
-Psychiatrist: Dr. ___ (___)
-Therapist: ___ (___)
-Medication trials: sertraline, bupropion, lamotrigine,
clonazepam, modafinil, duloxetine, risperidone
-___ trials: deferred
-Suicide attempts: denies
-Self-injurious behavior: denies
-Harm to others: denies
-Trauma: unclear/cites taking a leave of absence as traumatic
-Access to weapons: denies access to guns but has two knives

PAST MEDICAL HISTORY:
**PCP: ___ ___ clinic
- Denies medical comorbidities
- Denies history of head trauma, seizure.

MEDICATIONS:
[Including vitamins, herbs, supplements, OTC]
- lamotrigine XR 300mg daily
- risperidone 1mg daily
- duloxetine 60mg daily
- modafinil 200mg PRN
- clonazepam 1mg PRN (d/c'ed by psychiatrist ___ abuse concerns)

ALLERGIES: 
- NKDA
 
Social History:
SUBSTANCE USE HISTORY:
-Caffeine: deferred
-Tobacco: denies
-Alcohol: denies current use; previous heavy use though denies
withdrawals or seizures
-Marijuana: recent relapse, estimates 1 oz/week
-Heroin: denies
-Opiates: denies
-Benzos: clonazepam
-Cocaine: intermittent, socially; last used ___
-Amphetamines/speed: reports using "T"
-LSD/PCP: denies
-___: Denies

FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: father 
- OCD, depression; paternal
grandfather 
- ?sociopathy; paternal grandmother - depression,
?personality d/o; cousin w/ schizophrenia
-Substance Use Disorders: dad - alcohol
-___ Attempts/Completed Suicides: mom's great uncle "hung
himself"; dad's brother w/ possible SA

 
Physical Exam:
VITAL SIGNS: 
98.5, 57, 118/61, 18, 98% RA 

EXAM:

General: 
-HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear, supple neck. No scleral icterus. 
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout. 
-Pulmonary: No increased work of breathing. Lungs clear to
auscultation bilaterally. No wheezes/rhonchi/rales. 
-Abdominal: Non-distended, bowel sounds normoactive. No
tenderness to palpation in all quadrants. No guarding, no 
rebound
tenderness. 
-Extremities: Warm and well-perfused. No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological: 

-Cranial Nerves: 
---I: Olfaction not tested. 
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally. VFF to confrontation. 
---III, IV, VI: EOMI without nystagmus 
---V: Facial sensation intact to light touch in all 
distributions

---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally 
---VIII: Hearing intact to finger rub bilaterally 
---IX, X: Palate elevates symmetrically 
---XI: ___ strength in trapezii and SCM bilaterally 
---XII: Tongue protrudes in midline -Motor: Normal bulk and tone
bilaterally. No abnormal movements, no tremor. Strength ___
throughout. 
-Sensory: No deficits to fine touch throughout 
-DTRs: 2 and symmetrical throughout Coordination: Normal on
finger to nose test, no intention tremor noted 
-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Able to walk in tandem without difficulty. Romberg 
absent.

Mental Status:
-Appearance: man appearing stated age, balding though uneven,
adequately groomed, wearing hospital gown, in no apparent
distress
-Behavior: Sitting up in bed, decreased eye contact, no
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, friendly, forthcoming
-Mood: "Ok" "A little annoyed"
-Affect: Mood-congruent, restricted, occasionally dysphoric,
appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Passive SI; denies HI
---Delusions: belief he is a ___ god" or future "dictator" 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Limited

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 1 error; WORLDb w/ 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: apple/orange = "both fruit"
-Visuospatial: Not assessed
-Language: Fluent ___ speaker, no paraphasic errors,
appropriate to conversation
 
Pertinent Results:
___ 10:50AM BLOOD WBC-11.2* RBC-4.58* Hgb-14.4 Hct-43.9 
MCV-96 MCH-31.4 MCHC-32.8 RDW-11.9 RDWSD-42.1 Plt ___
___ 10:50AM BLOOD Neuts-56.2 ___ Monos-4.7* Eos-1.6 
Baso-0.2 Im ___ AbsNeut-6.30* AbsLymp-4.16* AbsMono-0.53 
AbsEos-0.18 AbsBaso-0.02
___ 10:50AM BLOOD Glucose-92 UreaN-15 Creat-0.9 Na-137 
K-4.4 Cl-100 HCO3-27 AnGap-10
___ 07:14AM BLOOD %HbA1c-5.2 eAG-103
___ 07:14AM BLOOD Triglyc-42 HDL-58 CHOL/HD-3.1 LDLcalc-115
___ 07:14AM BLOOD Cholest-181
___ 07:14AM BLOOD TSH-0.65
___ 07:14AM BLOOD Trep Ab-NEG
___ 05:27PM BLOOD HIV Ab-NEG
___ 10:50AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 01:00PM URINE Color-Straw Appear-CLEAR Sp ___
___ 01:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-6.5 
Leuks-NEG
___ 01:00PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 1:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
 
Brief Hospital Course:
DISCHARGE SUMMARY

1. LEGAL & SAFETY:  
 On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and a 3-day notice on ___, which 
he retracted and resubmitted, set to expire on ___.  At that 
time the patient was not deemed to be at risk of harm to self 
and the patient was discharged).  They were granted monitored 
sharps access, placed on 15 minute checks status on admission 
and remained on that level of observation throughout while being 
unit restricted.

2. PSYCHIATRIC:
 #)  Bipolar I disorder, current episode mixed features
 1) On admission to the unit, patient endorsed worsened 
depression, functional decline, intrusive suicidal thoughts, 
racing thoughts, irritability, and some increased goal-directed 
activity ___ trading, exercise) with poor sleep. Acute 
stressors included end of law school semester and mounting 
academic demands. On exam, he was noted to be labile, quickly 
tearful, with some limitations in insight in regards to risk 
taking behaviors (ie. unprotected sex). Speech was verbose, but 
non-pressured and redirectable. 
 2) Diagnostically, presentation appeared most consistent with 
underlying bipolar disorder, with both depressive and hypomanic 
features. There were some narcissistic traits of grandiosity, 
interpersonal difficulties with peers and providers/authority 
figures, and superficial sexual relationships for which we 
considered a cluster B personality build. However, given 
concurrent mania and substance use, this was difficult to fully 
interpret. 
 3) Intervention included medication management. Patient 
endorsed unclear benefit to lamotrigine and duloxetine, felt 
that he may be overusing his modafinil stimulant, and felt clear 
benefit in intrusive thoughts and irritability with risperidone. 
Outpatient psychiatrist had the most confidence in efficacy of 
risperidone, with some benefits to lamotrigine/duloxetine, and 
recommended discontinuation of modafinil. Thus, modafinil and 
duloxetine were discontinued. Lamotrigine was reduced to 150mg 
po daily, and deferred to patient and outpatient psychiatrist to 
continue taper once patient in a place of sustained mood 
stability. We continued risperidone at current dosing, and began 
lithium. On day prior to discharge, lithium level was 
subtherapeutic at 0.2 trough, 0.5 random; and thus lithium was 
increased to 1200mg po nightly on discharge. Patient plans to 
follow-up with ___ health for repeat lab work prior to visit 
with outpatient psychiatrist. Patient tolerated medication well, 
with minimal fine tremor. He utilized hydroxyzine 25mg po BID 
PRN infrequently, and did note some daytime somnolence after 
taking late at night, but declined dose reduction or 
continuation on discharge due to concerns for abuse potential.
 4) Outcome of hospitalization was improved mood, decreased 
intrusive suicidal thoughts. His mother noted improvement in 
impulsivity and more sensible thought process, and both patient 
and his mother felt comfortable with his discharge to the 
community. Patient endorsed some anxiety around returning to law 
school, but was able to begin coursework during hospital and 
arrange for academic extension with ___ of the law school. He 
is ___ and has demonstrated his ability to access 
help and resources in times of crisis (BU ___ counseling, 
providers). 
 5) Future consideration could be given to tapering off 
lamotrigine in the future, as patient desires a more simplified 
regimen. However, there may be some synergistic benefit to the 
combination of lithium and lamotrigine, and patient does not 
appear to have significant side effects on current regimen, so 
could alternatively consider titrating back to more therapeutic 
level. As noted by outpatient provider, would avoid controlled 
substances and those with abuse potential given history of 
substance use. If patient is unable to tolerate lithium in the 
future, would consider valproate given history of agitation, 
impulsivity, altercations in the community. Patient is unable to 
definitively state whether SSRI helpful in depression (and does 
feel may have contributed to first manic episode in 
mono-therapy), but could cautiously introduce if depressive 
symptoms persist. 

3. SUBSTANCE USE DISORDERS:
 #) Cannabis use disorder, early remission
 #) Alcohol use disorder, remission
 #) Stimulant use disorder (cocaine, methamphetamines), 
remission  
Addiction psychiatry was consulted, and recommended outpatient 
follow-up with IOP or PHP for dual diagnosis, which patient 
declined at this time. Psychoeducation provided. He will 
continue to follow with outpatient therapist to address current 
struggles with cannabis as well as continued sobriety support 
for alcohol and stimulants. Encouraged SMART recovery meetings 
while inpatient and in outpatient community. 

4. MEDICAL: No acute medical needs. 

5. PSYCHOSOCIAL
 #) GROUPS/MILIEU:  
 The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  
Initially, patient only attended physically oriented groups, 
such as chair yoga and exercise group. As hospital stay 
progressed, the patient began to attend more psychoeducation 
groups that focused on teaching patients various coping skills 
(meditation, coping skills). Patient was pleasant, sociable and 
visible in the milieu, occasionally reading or working on 
puzzles independently. Per nursing, noticed to be polite and 
helpful to peers. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Collateral information was obtained from outpatient psychiatrist 
Dr. ___ therapist ___. Family meeting was held 
with mother to discuss treatment and aftercare planning.

 #) INTERVENTIONS
 - Medications: lithium, lamotrigine, risperidone, duloxetine, 
hydroxyzine
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Coordination of aftercare: outpatient psychiatry, therapy
 - Behavioral Interventions: cognitive reframing, 
problem-solving, mood diary, contingency/safety planning 
 - Guardianships: none

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting lithium (tremor, nephrotoxicity, seizure, slurring, 
ataxia, hypothyroidism, increased thirst, weight gain), and 
hydroxyzine (sedation, dry mouth, constipation) and risks and 
benefits of possible alternatives, including not taking the 
medication, with this patient.  We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team.  The patient appeared able to understand and 
consented to begin the medication.

RISK ASSESSMENT & PROGNOSIS
 On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon intrusive suicidal 
thoughts. Their static factors noted at that time include 
history of violence, chronic mental illness, history of 
substance abuse, male gender, family history of suicide. 
Modifiable risk factors included mood lability, impulsivity, 
limited social supports, lack of purpose, polarized thinking 
were addressed via therapeutic intervention, medication 
management and mood stabilization.  Finally, the patient is 
being discharged with many protective risk factors, including 
engagement with outpatient providers, ___, 
___, linear thinking, intelligence, supportive 
family, responsibility to pet.  Based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 300 mg PO DAILY 
2. RisperiDONE 1 mg PO DAILY 
3. DULoxetine ___ 60 mg PO DAILY 
4. Modafinil 200 mg PO DAILY:PRN somnolence 

 
Discharge Medications:
1.  Lithium Carbonate SR (Lithobid) 1200 mg PO QHS 
Lithobid SR 
RX *lithium carbonate 600 mg 2 tablet(s) by mouth at bedtime 
Disp #*28 Capsule Refills:*0 
2.  LamoTRIgine 150 mg PO DAILY 
RX *lamotrigine 150 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
3.  RisperiDONE 1 mg PO DAILY 
RX *risperidone [Risperdal] 1 mg 1 tablet(s) by mouth once a day 
Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
bipolar I disorder, current episode mixed features
cannabis use disorder, early remission
alcohol use disorder in remission

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
.
Mental Status Exam
MENTAL STATUS:
 *Appearance: no acute distress; well-developed, appears stated
age, wearing knit cap, dressed casually
 *Behavior: calm, cooperative, forthcoming, pleasant. 
appropriate
eye contact.  
 *Mood and Affect: 'better' / mood-congruent, euthymic, 
reactive, stable affect
 *Thought process / *associations: linear, goal-direct, 
coherent.
no looseness of associations. 
 *Thought Content: denies SI/HI, intrusive thoughts. no AVH. not
responding to internal stimuli. no delusions elicited.
 *Judgment and Insight: fair 
.
COGNITION:
 Wakefulness/alertness: Alert
 *Attention: intact to interview
 *Orientation: oriented
 *Memory: ___ grossly intact
 *Speech: fluent, spontaneous, clear. normal volume, rate, tone,
prosody. 
 *Language: fluent ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please avoid NSAIDs (Motrin, Aleeve, etc.) and other 
medications that can be harmful to your kidneys. This is 
important due to your lithium therapy.
-You may use biotin rinse as needed for dry mouth.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___